### PR TITLE
feat: GroupoidNMBase constructed'

### PR DESCRIPTION
**Pull request by Jlh18**
1. Extending Spencer's work, I have completed the definition of `GroupoidNM : NaturalModelBase Ctx`, i.e. I have shown that `Tm -> Ty` admits context extensions / has representable fibers. 
2. I added more imports to the file `GroupoidModel.lean` so `lake build` actually builds all of the files we are working on.
3. I renamed `GroupoidalGrothendieck` to `Grothendieck.Groupoidal` 
4. I moved the file `PullBackProofs.lean` to `/attic`. @SpencerWoolfson is this bad, will you still need it?

### CODE REVIEW

File: GroupoidModel/ForMathlib.lean [hunk 1]
```diff
@@ -164,5 +164,43 @@ theorem map_eqToHom_base {G1 G2 : Grothendieck A} (eq : G1 = G2)
...
+open Iso
+
+variable {C : Type u₁} [Category.{v₁,u₁} C] {G : C ⥤ Cat.{v₂,u₂}}
+
+/-- A morphism in the Grothendieck construction is an isomorphism if
+- the morphism in the base is an isomorphism; and
+- the fiber morphism is an isomorphism. -/
+def mkIso {X Y : Grothendieck G}
+    (s : X.base ≅ Y.base) (t : (G |>.map s.hom).obj X.fiber ≅ Y.fiber)
+  : X ≅ Y where
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:176]:
```suggestion
    (s : X.base ≅ Y.base) (t : (G |>.map s.hom).obj X.fiber ≅ Y.fiber) :
    X ≅ Y where
```

File: GroupoidModel/Grothendieck/Groupoidal.lean [hunk 2]
```diff
@@ -1,145 +1,325 @@
...
+↑ Grothendieck.forget        PGrpd.forgetToGrpd
+        |                                 |
+        v                                 v
+        ↑Γ--------------A---------------> Grpd
 
-@[simps!]
-def toCat {C : Type u₁} [Category.{v₁,u₁} C] (G : C ⥤ Grpd) : C ⥤ Cat := G ⋙ Grpd.forgetToCat
-namespace Grothendieck
+## Main definitions
+* `CategoryTheory.Grothendieck.Groupoidal` uses `CategoryTheory.Grothendieck`
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/Groupoidal.lean:18]: I don't understand what `Groupoidal` is just from this description.

File: GroupoidModel/Grothendieck/Groupoidal.lean [hunk 3]
```diff
@@ -1,145 +1,325 @@
...
-  map_comp := by
-    sorry
-  map_id x := by
-    sorry
-
-end GroupoidalGrothendieck
+-- def ToGrpd : Grothendieck.Groupoidal F ⥤ Grpd.{v₂,u₂} :=
+--   Grothendieck.forget _ ⋙ F
 
+-- def functorial {C D : Grpd.{v₁,u₁}} (F : C ⟶ D) (G : D ⥤ Grpd.{v₂,u₂}) :
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/Groupoidal.lean:79]: Should this be removed, or stowed in the attic?

File: GroupoidModel/Groupoids/PullBackProofs.lean [hunk 4]
```diff
@@ -36,20 +36,20 @@ theorem PointedFunctor.eqToHom_point {P1 P2 : PCat.{u,u}} (eq : P1 = P2) : (eqTo
   cases eq
   simp[PointedFunctor.id, CategoryStruct.id, PCat.forgetToCat,Cat.of,Bundled.of]
 
-/-- This turns the object part of eqToHom functors into casts -/
-theorem Cat.eqToHom_obj (C1 C2 : Cat.{u,v})(x : C1)(eq : C1 = C2): (eqToHom eq).obj x = cast (congrArg Bundled.α eq) x := by
-  cases eq
-  simp[CategoryStruct.id]
+-- /-- This turns the object part of eqToHom functors into casts -/
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/PullBackProofs.lean:39]: Should this be removed, or stowed in the attic?

**Review by Vtec234 — APPROVED** [review]

File: GroupoidModel/Grothendieck/Groupoidal.lean (hunk 3 above)
Comment (Jlh18) [reply GroupoidModel/Grothendieck/Groupoidal.lean:79]: I'm not sure if @SpencerWoolfson needs it, which is why I merely commented it out.
